US06638972B2
Preparation of Methyl 7-Benzyloxy-6-chlorochroman-2-carboxylate
A solution of ethyl 6-chloro-7-hydroxychroman-2-carboxylate (3.0 g, 11.7 mmol) in THF is treated with NaH (3.0 equiv, 35 mmol) at 0° C., stirred for 20 minutes, treated with benzylbromide (3.0 g, 17.5 mmol), stirred for 16 hr, concentrated and diluted with water and EtOAc. The aqueous phase is separated, acidified to pH 1-2 with 2N HCl and extracted with EtOAc. The extracts are combined, dried over MgSO4 and concentrated in vacuo. The resultant residue is dissolved in methanol, treated with a catalytic amount of p-toluenesulfonic acid, heated at reflux temperature for 18 hr, cooled and concentrated in vacuo. This resultant residue is triturated under EtOAc/hexanes and filtered. The filtercake is further purified by short-column chromatography (silica gel, 5:1 hexane:EtOAc as eluent) to afford the title product as a light yellow solid, 2.7 g (6.9% yield), identified by NMR and mass spectral analyses.

reactant | ethyl 6-chloro-7-hydroxychroman-2-carboxylate | 11.7 mmol, 3.0 g | ClC=1C=C2CCC(OC2=CC1O)C(=O)OCC | C12H13ClO4
reactant | NaH | 35 mmol, 3.0 equiv | [H-].[Na+]
reactant | benzylbromide | 17.5 mmol, 3.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 7-Benzyloxy-6-chlorochroman-2-carboxylate | 6.9% yield | C(C1=CC=CC=C1)OC1=C(C=C2CCC(OC2=C1)C(=O)OC)Cl | C18H17ClO4
